US04292431
To a suspension of 2.16 g (0.01 mol) of 1-benzyl-5-carbmethoxyimidazole in 5 ml of water are succesively added 0.8 g (0.02 mol) of sodium hydroxide and 4 ml of ~37% aqueous formaldehyde. The resultant mixture is heated to reflux for 2 hours. After completion of the reaction, the solvent is stripped off, and the residual solid is extracted with ethyl acetate. The ethyl acetate extract is concentrated to give 1-benzyl-5-hydroxymethylimidazole as a solid, m.p. 138°-140° C.

reactant | 1-benzyl-5-carbmethoxyimidazole | 0.01 mol, 2.16 g | C(C1=CC=CC=C1)N1C=NC=C1C(=O)OC | C12H12N2O2
reactant | sodium hydroxide | 0.02 mol, 0.8 g | [OH-].[Na+]
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | water | 5 ml | O | H2O
product | 1-benzyl-5-hydroxymethylimidazole | C(C1=CC=CC=C1)N1C=NC=C1CO | C11H12N2O
